US06693123B2
{4-[2-(Pyrid-3-yl)ethenyl]-2-(2-methylphenyl)benzoyl}methionine Sodium Salt
To a solution of {4-[2-(pyrid-3-yl)ethenyl]-2-(2-methylphenyl)benzoyl}methionine methyl ester, prepared as in Example 274, (3.285 g, 7.13 mmol) in methanol (10 mL) was added a solution of sodium hydroxide (0.979 N, 7.35 mL). After 15 hours, the solvent was evaporated in vacuo to give the title compound (3.35 g, 100%). 1H NMR (300 MHz, DMSO-d6) δ 8.79 (d, 1H), 8.46 (dd, 1H), 8.05 (dt, 1H), 7.70-7.53 (m, 3H), 7.48-7.37 (m, 4H), 7.27-7.18 (m, 3H), 6.97 (m, 1H), 3.50 (m, 1H), 2.21, 2.03 (2 s's, 3H), 2.00-1.92 (m, 2H), 1.93 (s, 3H), 1.70 (m, 1H), 1.58 (m, 1H). MS (APCI) m/e 445 (M−H)− as the acid form.

reactant | {4-[2-(pyrid-3-yl)ethenyl]-2-(2-methylphenyl)benzoyl}methionine methyl ester | COC([C@@H](NC(C1=C(C=C(C=C1)C=CC=1C=NC=CC1)C1=C(C=CC=C1)C)=O)CCSC)=O | C27H28N2O3S
reactant | sodium hydroxide | 0.979 N, 7.35 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | {4-[2-(Pyrid-3-yl)ethenyl]-2-(2-methylphenyl)benzoyl}methionine Sodium Salt | 3.35 g, 100% | [Na+].N1=CC(=CC=C1)C=CC1=CC(=C(C(=O)N[C@@H](CCSC)C(=O)[O-])C=C1)C1=C(C=CC=C1)C | InChI=1S/C26H26N2O3S.Na/c1-18-6-3-4-8-21(18)23-16-19(9-10-20-7-5-14-27-17-20)11-12-22(23)25(29)28-24(26(30)31)13-15-32-2;/h3-12,14,16-17,24H,13,15H2,1-2H3,(H,28,29)(H,30,31);/q;+1/p-1/t24-;/m0./s1
